US08076345B2
5-Chloro-2-[4-(3-[1,2,4]triazol-4-yl-benzylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl]-benzonitrile
A reaction mixture of 5-chloro-2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile (80 mg, 0.26 mmol) and (3-(4H-1,2,4-triazol-4-yl)phenyl)methanamine (120 mg, 0.40 mmol) in acetonitrile (1 mL) and N,N-diisopropylethylamine (0.6 mL, 4 mmol) was subjected to microwave irradiation at 185° C. for 2.5 h. The reaction mixture was concentrated and purified by semi-preparative HPLC (100×20.2 mm, C18 column; 30-50% CH3CN-water [10 mM Et2NH]) to yield a light yellow solid.

reactant | 5-chloro-2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | 0.26 mmol, 80 mg | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2Cl)CC1 | C14H10Cl2N4
reactant | (3-(4H-1,2,4-triazol-4-yl)phenyl)methanamine | 0.40 mmol, 120 mg | N=1N=CN(C1)C=1C=C(C=CC1)CN | C9H10N4
reactant | N,N-diisopropylethylamine | 4 mmol, 0.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 5-Chloro-2-[4-(3-[1,2,4]triazol-4-yl-benzylamino)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl]-benzonitrile | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NCC2=CC(=CC=C2)N2C=NN=C2)CC1 | C23H19ClN8
